US07851463B2
138.4 4-Isopropyl-N-[4-(1-propyl-piperidin-3-yl)-phenyl]-benzenesulfonamide, hydrochloride
4-(1-Propyl-piperidin-3-yl)-phenylamine (600 mg, 1.65 mmol) and 4-isopropylphenylsulfonyl chloride (397 mg, 1.81 mmol) were dissolved in tetrahydrofuran (25 ml). Triethylamine (760 μl, 5.44 mmol) was added and the reaction mixture stirred for 72 hours at room temperature. The solvent was evaporated under reduced pressure, the residue treated with diethyl ether (50 ml) and three times extracted with water (3×30 ml). The organic phase was treated with 1 molar HCl solution. The acidic aqueous solution was made alkaline with NaOH solution to pH 9-10 and then extracted with ethyl acetate (25 ml). The organic phase was dried over magnesium sulfate, filtered, and the solvent evaporated under reduced pressure to give the crude product (580 mg). The crude product was purified via silica gel chromatography with ethyl acetate. Fractions containing the product were combined, the solvent evaporated to yield the pure product which was then converted into the hydrochloride salt via adding a solution of 1 N HCl in diethyl ether. The precipitate was filtered off and dried in vacuo to give the pure product (283 mg, 39%).

reactant | 4-(1-Propyl-piperidin-3-yl)-phenylamine | 1.65 mmol, 600 mg | C(CC)N1CC(CCC1)C1=CC=C(C=C1)N | C14H22N2
reactant | 4-isopropylphenylsulfonyl chloride | 1.81 mmol, 397 mg | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | Triethylamine | 5.44 mmol, 760 μl | C(C)N(CC)CC | C6H15N
reactant | HCl | 1 N | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Isopropyl-N-[4-(1-propyl-piperidin-3-yl)-phenyl]-benzenesulfonamide, hydrochloride | 283 mg, 39% | Cl.C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C1CN(CCC1)CCC | InChI=1S/C23H32N2O2S.ClH/c1-4-15-25-16-5-6-21(17-25)20-7-11-22(12-8-20)24-28(26,27)23-13-9-19(10-14-23)18(2)3;/h7-14,18,21,24H,4-6,15-17H2,1-3H3;1H
